US04279637
PREPARATION OF ethyl [4-[3-(TRICHLOROMETHYL)PHENOXY]-3- (TRICHLOROMETHYL)PHENYL]CARBAMATE.
4-[3-(Trichloromethyl)phenoxy]-3-(trichloromethyl)benzenamine (0.1 mole) and pyridine (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and are cooled to about 5° C. Ethyl chloroformate (0.125 mole) is added, with stirring, at about 5° C. Stirring is continued for a period of about 30 minutes at about 5° C., then for an additional 16 hours at room temperature. The mixture is then washed with 2 portions of water (50 ml), dried and the solvent is then removed to yield the desired product ethyl [4-[3-(trichloromethyl)phenoxy]-3-(trichloromethyl)phenyl]carbamate.

reactant | 4-[3-(Trichloromethyl)phenoxy]-3-(trichloromethyl)benzenamine | 0.1 mole | ClC(C=1C=C(OC2=C(C=C(C=C2)N)C(Cl)(Cl)Cl)C=CC1)(Cl)Cl | C14H9Cl6NO
reactant | Ethyl chloroformate | 0.125 mole | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl [4-[3-(trichloromethyl)phenoxy]-3-(trichloromethyl)phenyl]carbamate | ClC(C=1C=C(OC2=C(C=C(C=C2)NC(OCC)=O)C(Cl)(Cl)Cl)C=CC1)(Cl)Cl | C17H13Cl6NO3
